US07718649B1
The pamoate salt of Imipramine can be prepared by treatment of Imipramine with pamoic salt or pamoic acid in a solvent or solvent mix. Imipramine pamoate was prepared by adding a solution of imipramine in an appropriate solvent, e.g. acidic water, to a solution of disodium pamoate, pamoic acid or other pamoate salt and stirred resulting in precipitation of the salt.

reactant | Imipramine | CN(C)CCCN1C=2C=CC=CC2CCC3=C1C=CC=C3 | C19H24N2
reactant | pamoic acid | C=1C=CC=2C(C1)=CC(=C(C2CC3=C4C=CC=CC4=CC(=C3O)C(=O)O)O)C(=O)O | C23H16O6
reactant | disodium pamoate | C1=CC=C2C(=C1)C=C(C(=C2CC3=C(C(=CC4=CC=CC=C43)C(=O)O)O)O)C(=O)O.[Na+]
solvent | water | O | H2O
product | Imipramine pamoate | CN(C)CCCN1C=2C=CC=CC2CCC3=C1C=CC=C3.C=1C=CC=2C(C1)=CC(=C(C2CC3=C4C=CC=CC4=CC(=C3O)C(=O)O)O)C(=O)O | InChI=1S/C23H16O6.C19H24N2/c24-20-16(14-7-3-1-5-12(14)9-18(20)22(26)27)11-17-15-8-4-2-6-13(15)10-19(21(17)25)23(28)29;1-20(2)14-7-15-21-18-10-5-3-8-16(18)12-13-17-9-4-6-11-19(17)21/h1-10,24-25H,11H2,(H,26,27)(H,28,29);3-6,8-11H,7,12-15H2,1-2H3
